US05972307
(a) N-BOC-N-methylglucamine
N-methylglucamine (4.0 g; 20.49 mmol) and di-t-butyl dicarbonate (4.48 g; 20.51 mmol) were dissolved in methanol (40 mL) and the solution was stirred under nitrogen for 24 hours. Concentration and washing with petroleum ether yielded the title product as a colorless solid (6.48 g, 100%). 1H NMR (D2O): δ3.59-3.38 (m, 6 H), 3.1 (s, 2 H), 2.67 (br, 3 H), 1.21 (s, 9 H).

reactant | N-methylglucamine | 20.49 mmol, 4.0 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | di-t-butyl dicarbonate | 20.51 mmol, 4.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 40 mL | CO | CH4O
product | N-BOC-N-methylglucamine | 6.48 g, 100% | C(=O)(OC(C)(C)C)N(C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C | C12H25NO7
